US06610714B2
b) 7,8-dihydro-2-naphthalenyl trifluoromethanesulfonate
7,8-Dihydro-2-naphthalenol (5.3 g, 37 mmol) was mixed with triethylamine (6.2 ml, 44 mmol) in abs. methylenechrloride and cooled under nitrogen in the ice/brine bath. Triflic anhydride (7.4 ml, 44 mmol) was added to the stirred solution through syringe during 10 min. The temperature was allowed to rise slowly up to room temperature. The reaction mixture was then washed with water and brine and dried over Na2SO4. The crude product was purified by column chromatography on silica. 9 g of brown liquid was obtained. Yield 88%.

reactant | 7,8-Dihydro-2-naphthalenol | 37 mmol, 5.3 g | C1=C(C=CC=2C=CCCC12)O | C10H10O
reactant | triethylamine | 44 mmol, 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 44 mmol, 7.4 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | 7,8-dihydro-2-naphthalenyl trifluoromethanesulfonate | 9 g, Yield 88% | FC(S(=O)(=O)OC1=CC=2CCC=CC2C=C1)(F)F | C11H9F3O3S
